US08242153B2
To a stirred solution of (S)-4-ethynyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (3.16 g; CAS 173065-16-2) in dry THF (20 ml) under an argon atmosphere at −78° C. was added dropwise a solution of n-butyllithium in hexane (10.5 ml, 1.6 M solution) and stirring continued for 30 min. A solution of 4-chlorobenzaldehyde (2.17 g) in THF (10 ml) was added dropwise and the mixture was stirred for a further 2 h at −78° C. The reaction mixture was then quenched by careful addition of water (12 ml) and allowed to warm to room temperature. The mixture was diluted with ethyl acetate and washed with saturated brine. The combined organic phase was dried over sodium sulphate, filtered and concentrated in vacuo. The reside was purified by column chromatography (SiO2; gradient: heptane/EtOAc) to give (S)-4-[3-(4-chloro-phenyl)-3-hydroxy-prop-1-ynyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (mixture of epimers) as a yellow oil. MS (ISP): 426.1 ([{37Cl}M+OAc]−), 424.1 ([{35Cl}M+OAc]−).

reactant | (S)-4-ethynyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 3.16 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C#C)(C)C | C12H19NO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-chlorobenzaldehyde | 2.17 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M, 10.5 ml | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (S)-4-[3-(4-chloro-phenyl)-3-hydroxy-prop-1-ynyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C#CC(O)C1=CC=C(C=C1)Cl)(C)C | C19H24ClNO4
